US08124806B2
c) Toluene-4-sulfonic acid 6-tosyloxy-4-tosyloxymethyl-hexyl ester
To a solution of 3-hydroxymethylhexane-1,6-diol (4 g, 0.027 mol) in pyridine (80 mL) stirred in an ice bath was added para-toluenesulphonyl chloride (16.9 g, 0.09 mol) in one portion. The mixture was allowed to warm to ambient temperature. After 48 hours the reaction was worked up using DCM (100 mL) which was washed with 1N HCl (2×100 mL). The organic layer was dried and concentrated to yield a very viscous, sticky oil which was analysed by NMR. This confirmed the desired material had been formed in a yield of 60% (9.9 g). The material was used without further purification.

reactant | 3-hydroxymethylhexane-1,6-diol | 0.027 mol, 4 g | OCC(CCO)CCCO | C7H16O3
reactant | para-toluenesulphonyl chloride | 0.09 mol, 16.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid 6-tosyloxy-4-tosyloxymethyl-hexyl ester | yield of 60% | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC(CCCOS(=O)(=O)C1=CC=C(C=C1)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C28H34O9S3
